US06284764B1
5-(4-Chloro-quinazolin-ylethynyl)-4,4-dimethyl-oxazolidin-2-one:
A mixture of 4,4-Dimethyl-5-ethynyl-2-oxazolidinone (1.10 g, 7.90 mmol), 4chloro-6-iodoquinazoline (1.63 g, 5.60 mmol), dichlorobis(triphenylphosphine)palladium(II) (200 mg, 0.28 mmol), copper iodide (53 mg, 0.28 mmol), and diisopropylamine (0.57 g, 5.60 mmol) in anhydrous THF (30 mL) was stirred at room temperature under nitrogen for 4 hours. After concentration, the residue was dissolved in CH2Cl2 (80 mL), washed with aqueous NH4Cl and brine, dried over sodium sulfate, and concentrated to give the crude product as brown oil. Purification by silica gel column using 50-70% EtOAc in hexane afforded 1.22 g (72%) of yellow solid: 1H NMR (CDCl3) δ 1.49 (s, 3H), 1.53 (s, 3H), 5.14 (s, 1H), 5.57 (brs, 1H), 7.95 (dd, 1H), 8.04 (d, 1H, J=8.8 Hz), 8.38 (d, 1H, J=2.0 Hz), 9.05 (s, 1H).

reactant | 4,4-Dimethyl-5-ethynyl-2-oxazolidinone | 7.90 mmol, 1.10 g | CC1(NC(OC1C#C)=O)C | C7H9NO2
reactant | 4chloro-6-iodoquinazoline | 5.60 mmol, 1.63 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | diisopropylamine | 5.60 mmol, 0.57 g | C(C)(C)NC(C)C | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.28 mmol, 200 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.28 mmol, 53 mg | [Cu](I)I
product | 5-(4-Chloro-quinazolin-ylethynyl)-4,4-dimethyl-oxazolidin-2-one | 1.22 g, 72% | ClC1=NC(=NC2=CC=CC=C12)C#CC1C(NC(O1)=O)(C)C | C15H12ClN3O2
